US04346088
2-(4-Diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline
Obtained by a procedure analogous to that indicated in Example 2 (a), from 2-(4-diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide and triethylamine in methanol at room temperature. Melting point 184°-185° C.

reactant | 2-(4-diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.C(C)N(C1=CC=C(C=C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)CC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 2-(4-Diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline | C(C)N(C1=CC=C(C=C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)CC | C22H27ClN4O2S2
